US07863305B2
To a solution of 3-(7-methoxy-indol-1-yl)-3-pyridin-3-yl-propan-1-ol in dichloromethane (10 ml) was added triethylamine (0.086 g) followed by methanesulfonyl chloride (0.071 g) dropwise at 0° C. The mixture was stirred for 30 minutes at the same temperature and then the reaction was quenched by partitioning between water and dichloromethane. The organic layer was washed with bicarbonate solution, dried and evaporated to dryness. The crude product was taken up in an ethanolic solution of methyl amine (33%, 4 ml), stirred for 30 minutes at room temperature and then at 100° C. in a microwave reactor. After cooling, the solvents were removed, the crude product was partitioned between dichloromethane and bicarbonate solution, and the organic layer separated. The resulting residue was purified by chromatography on silica gel eluting with mixtures of dichloromethane, methanol and ammonium hydroxide to give 0.088 g of [3-(7-methoxy-indol-1-yl)-3-pyridin-3-yl-propyl]-methyl-amine.

reactant | 3-(7-methoxy-indol-1-yl)-3-pyridin-3-yl-propan-1-ol | COC=1C=CC=C2C=CN(C12)C(CCO)C=1C=NC=CC1 | C17H18N2O2
reactant | triethylamine | 0.086 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.071 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | [3-(7-methoxy-indol-1-yl)-3-pyridin-3-yl-propyl]-methyl-amine | 0.088 g | COC=1C=CC=C2C=CN(C12)C(CCNC)C=1C=NC=CC1 | C18H21N3O
